US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carboxy-2-methylnitrobenzene
A solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-methoxycarbonyl-2-methylnitrobenzene (4.9 g) in concentrated hydrochloric acid (100 ml) was stirred at 80° C. for 5 hours. The reaction mixture was concentrated in vacuo. To a solution of the residual white solid in a mixture of water (30 ml) and acetone (30 ml) were added sodium hydrogencarbonate (2.3 g) and di-t-butyl dicarbonate (3.3 g) at room temperature. The resulting mixture was stirred at 40° C. for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to give the desired compound (4.8 g, yield quantitative) as a yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-methoxycarbonyl-2-methylnitrobenzene | 4.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1C(=O)OC)[N+](=O)[O-])C | C19H26N2O7
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carboxy-2-methylnitrobenzene | 4.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1C(=O)O)[N+](=O)[O-])C | C18H24N2O7
